US07056932B2
According to general procedure C, (RS)-ethoxy-(6-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetic acid was reacted with [1-amino-1-(4-aminomethyl-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester to give (RS)-[1-amino-1-(4-{[2-ethoxy-2-(6-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetylamino]-methyl}-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester as light yellow foam, MS 515.5 ([M+H]+).

reactant | (RS)-ethoxy-(6-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetic acid | C(C)OC(C(=O)O)N1C(C2=CC(=CC=C2C1)C)=O | C13H15NO4
reactant | [1-amino-1-(4-aminomethyl-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(\N=C(\C1=CC=C(C=C1)CN)/N)=O | C16H17N3O2
product | (RS)-[1-amino-1-(4-{[2-ethoxy-2-(6-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetylamino]-methyl}-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(\N=C(\C1=CC=C(C=C1)CNC(C(N1C(C2=CC(=CC=C2C1)C)=O)OCC)=O)/N)=O | C29H30N4O5
